US06436558B1
Eighteen point two (18.2) grams (75 mmol) of 9H-tribenz[b,d,f]azepin, 63.7 g (225 mmol) of 1-bromo-4-iodo-benzene, 5.0 g (90 mmol) of potassium hydroxide, and 2.0 g (31 mmol) of a copper powder were mixed with 50 ml of decalin and stirred by heating under a nitrogen gas current for about one week at outer temperature of 200° C. After the temperature of the reaction solution was lowered to near room temperature, chloroform was added thereto, and the solution was filtered through Celite to remove insoluble matters. Water was added to the filtrate, and the solution was subjected to extraction. The obtained concentrated reaction product was purified by silica gel column chromatography to obtain 17.4 g of 9-(4-iodophenyl)-tribenz[b,d,f]azepin (yield: 52%, a small amount of 4-bromophenyl compound was contained).

reactant | 9H-tribenz[b,d,f]azepin | 75 mmol | C1=CC=CC=2C3=C(NC4=C(C21)C=CC=C4)C=CC=C3 | C18H13N
reactant | 1-bromo-4-iodo-benzene | 225 mmol, 63.7 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | potassium hydroxide | 90 mmol, 5.0 g | [OH-].[K+]
reactant | decalin | 50 ml | C1CCCC2CCCCC12 | C10H18
catalyst | copper | 31 mmol, 2.0 g | [Cu] | Cu
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 9-(4-iodophenyl)-tribenz[b,d,f]azepin | 17.4 g, yield: 52% | IC1=CC=C(C=C1)N1C2=C(C3=C(C4=C1C=CC=C4)C=CC=C3)C=CC=C2 | C24H16IN
